US04105652
Boc-Thr(Bzl)-Ser(Bzl)-OSu (III)
A suspension of H-Ser(Bzl)-OH (2.59 g, 13.28 mmol) in DMF (70 ml) was stirred with Et3N (2.0 ml) and Boc-Thr(Bzl)-OSu (6.0 g, 14.76 mmol) at 0° C for 2 hr and 25° C for 72 hr. The reaction mixture was acidified to about pH 3 with acetic acid and the solvents removed under reduced pressure. The resulting clear oil was extracted into ethyl acetate, washed with 5% AcOH and water, dried (MgSO4) and evaporated to a clear oil. The oil was dissolved in THF (100 ml) and treated with HOSu (1.8 g) and dicyclohexylcarbodiimide (DCC) (3.0 g) for 1.5 hr at 0° C and 25° C for 3 hr. The DCU was removed by filtration and the filtrate evaporated to a clear oil which was crystallized from ETOH, yield 5.3 g (70.4%); mp 112°-113° C; [α]D25 +18.7° (c 1, CHCl3).

reactant | H-Ser(Bzl)-OH | 13.28 mmol, 2.59 g | N[C@@H](COCC1=CC=CC=C1)C(=O)O | C10H13NO3
reactant | Et3N | 2.0 ml | CCN(CC)CC | C6H15N
reactant | Boc-Thr(Bzl)-OSu | 14.76 mmol, 6.0 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H26N2O7
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | DMF | 70 ml | CN(C)C=O | C3H7NO
product | Boc-Thr(Bzl)-Ser(Bzl)-OSu | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C30H37N3O9
